US06825208B2
6′-Formyl-3′-hydroxy-2′,4′-dimethoxy-biphenyl-2-carboxylic acid ethyl ester was prepared from 4-acetoxy-2-bromo-3,5-dimethoxybenzaldehyde (Example 162, step a) and 2-ethoxycarbonylphenyl boronic acid using the protocol described in Example 147, step a. Mass Spectrum: 331 (M+1).

reactant | 4-acetoxy-2-bromo-3,5-dimethoxybenzaldehyde | C(C)(=O)OC1=C(C(=C(C=O)C=C1OC)Br)OC | C11H11BrO5
reactant | 2-ethoxycarbonylphenyl boronic acid | C(C)OC(=O)C1=C(C=CC=C1)B(O)O | C9H11BO4
product | 6′-Formyl-3′-hydroxy-2′,4′-dimethoxy-biphenyl-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=CC=CC1)C1=C(C(=C(C=C1C=O)OC)O)OC | C18H18O6
